US06967197B2
To a solution of 1-t-butoxycarbonyl-4-methoxypiperidine (2.84 g) in ethyl acetate (20 ml) was added 4N hydrochloric-acid-ethyl acetate solution (20 ml) and the mixture was stirred at ambient temperature for 1 hour. The solution was evaporated in vacuo to give 4-methoxypiperidine hydrochloride as a colorless amorphous powder (2.03 g).

reactant | 1-t-butoxycarbonyl-4-methoxypiperidine | 2.84 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC | C11H21NO3
reactant | hydrochloric-acid ethyl acetate | 4N, 20 ml | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-methoxypiperidine hydrochloride | 2.03 g | Cl.COC1CCNCC1 | InChI=1S/C6H13NO.ClH/c1-8-6-2-4-7-5-3-6;/h6-7H,2-5H2,1H3;1H
